US07067658B2
To a solution of 2-benzyloxy-4-chloro-3-nitro-pyridine (Wilde, et al. WO 99/01454, which is incorporated herein by reference) (3.0 g, 11.3 mmol) in ethanol (10 mL) and toluene (40 mL), was added Na2CO3 (14.17 mL, 2 M), 2-chloro-4-methoxyphenylboronic acid (3.17 g, 17.0 mmol), and Pd(PPh3)2Cl2 (0.48 g, 0.68 mmol) and the mixture was heated at reflux for 5 h. The reaction was cooled and poured into EtOAc and H2O (500 mL). The EtOAc layer was washed with H2O, brine, dried (Na2SO4), filtered and concentrated in vacuo. Purification using flash chromatography (10% EtOAc-Hexane) gave 1.51 g (36%) of 2-benzyloxy-4-(2-chloro-4-methoxy-phenyl)-3-nitro-pyridine as a viscous oil: MS (AP) m/z 370.8 [(M+H)+, 100].

reactant | 2-benzyloxy-4-chloro-3-nitro-pyridine | C(C1=CC=CC=C1)OC1=NC=CC(=C1[N+](=O)[O-])Cl | C12H9ClN2O3
reactant | Na2CO3 | 2 M, 14.17 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-chloro-4-methoxyphenylboronic acid | 17.0 mmol, 3.17 g | ClC1=C(C=CC(=C1)OC)B(O)O | C7H8BClO3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)2Cl2 | 0.68 mmol, 0.48 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | H2O | 500 mL | O | H2O
product | 2-benzyloxy-4-(2-chloro-4-methoxy-phenyl)-3-nitro-pyridine | 1.51 g, 36% | C(C1=CC=CC=C1)OC1=NC=CC(=C1[N+](=O)[O-])C1=C(C=C(C=C1)OC)Cl | C19H15ClN2O4
